US05021443
2.7 g of 4-[1-(4-chlorobenzyl)benzimidazol-2-yl]-3,3-dimethylbutanamide are dissolved in 50 ml of chloroform. 2.3 ml of phosphorus oxychloride are added and the mixture is refluxed for 5 hours. After cooling, the solvents are evaporated off under vacuum and the residue is taken up with water and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate and evaporated to dryness under vacuum to give an oil which crystallizes from ether. The crystals are filtered off, washed with ether and then dried to give 2.5 g of 4-[1-(4-chlorobenzyl)benzimidazol-2-yl]-3,3-dimethylbutyronitrile in the form of crystals melting at 110° C.

reactant | 4-[1-(4-chlorobenzyl)benzimidazol-2-yl]-3,3-dimethylbutanamide | 2.7 g | ClC1=CC=C(CN2C(=NC3=C2C=CC=C3)CC(CC(=O)N)(C)C)C=C1 | C20H22ClN3O
reactant | phosphorus oxychloride | 2.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[1-(4-chlorobenzyl)benzimidazol-2-yl]-3,3-dimethylbutyronitrile | 2.5 g | ClC1=CC=C(CN2C(=NC3=C2C=CC=C3)CC(CC#N)(C)C)C=C1 | C20H20ClN3
